// Generated for: spectre
// Generated on: Nov 21 12:24:24 2025
// Design library name: LAB4
// Design cell name: Shunt_bias9
// Design view name: schematic
simulator lang=spectre
global 0
parameters IS=1
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: LAB4
// Cell name: Shunt_bias9
// View name: schematic
M14 (net11 net11 net6 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(10)*(1) par1=(10)*(1) \
        xf_subext=0
M12 (net6 net6 net8 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(10)*(1) par1=(10)*(1) \
        xf_subext=0
M11 (net8 net8 net7 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(10)*(1) par1=(10)*(1) \
        xf_subext=0
M10 (net7 net7 net1 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(10)*(1) par1=(10)*(1) \
        xf_subext=0
M9 (net1 net1 0 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(10)*(1) par1=(10)*(1) \
        xf_subext=0
M7 (net12 net4 0 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(2)*(1) par1=(2)*(1) \
        xf_subext=0
M6 (VOUT net4 0 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(10)*(1) par1=(10)*(1) \
        xf_subext=0
M5 (net2 net4 0 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(20)*(1) par1=(20)*(1) \
        xf_subext=0
M4 (net4 net4 0 0) nel w=10u l=5u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(2)*(1) par1=(2)*(1) \
        xf_subext=0
M2 (net10 net8 net2 0) nel w=10u l=1u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) par1=(8)*(1) \
        xf_subext=0
M0 (net9 net3 net2 0) nel w=10u l=1u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) par1=(8)*(1) \
        xf_subext=0
M13 (net9 net9 net11 net11) pel w=4u l=1u as=1.5e-12 ad=1.08e-12 \
        ps=6.75e-06 pd=4.54e-06 nrs=0.0675 nrd=0.0675 m=(1)*(4) \
        par1=(1)*(4)
M8 (net10 net9 net11 net11) pel w=4u l=1u as=1.5e-12 ad=1.08e-12 \
        ps=6.75e-06 pd=4.54e-06 nrs=0.0675 nrd=0.0675 m=(1)*(4) \
        par1=(1)*(4)
M1 (net12 net12 net11 net11) pel w=4u l=2u as=1.92e-12 ad=1.08e-12 \
        ps=8.96e-06 pd=4.54e-06 nrs=0.0675 nrd=0.0675 m=(1)*(2) \
        par1=(1)*(2)
M3 (VOUT net10 net11 net11) pel w=8u l=250.0n as=2.496e-12 ad=2.16e-12 \
        ps=1.0224e-05 pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(10) \
        par1=(1)*(10)
V1 (net11 0) vsource dc=1.8 type=dc
I24 (net11 net4) isource dc=2u type=dc
C4 (VG net3) capacitor c=1u
C2 (net3 VOUT) capacitor c=35f
C1 (VG 0) capacitor c=2p
C0 (VOUT 0) capacitor c=100f
R2 (0 VG) resistor r=100k
R0 (net3 VOUT) resistor r=1M
I7 (0 VG) isource mag=IS type=sine
C6 (net8 0 0) mosvc w=20u l=20u m=(3)*(1) par1=(3)*(1) xf_subext=0
C5 (net11 net12 0) mosvc w=20u l=20u m=(3)*(1) par1=(3)*(1) xf_subext=0
C3 (net4 0 0) mosvc w=20u l=20u m=(3)*(1) par1=(3)*(1) xf_subext=0
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=0.01 stop=100M dec=30 annotate=status 
pz ( VOUT ) pz iprobe=I7 freq=1 
noise ( VOUT ) noise start=0.01 stop=100M dec=30 iprobe=I7 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
